US04738970
4.00 Grams of 3-methyl-8-(5-methoxy-2-benzimidazolyl)thio-5,6,7,8-tetrahydroquinoline was dissolved in 80 ml of dichloromethane, to this solution was added dropwise slowly at -10° C. a solution which was prepared by dissolving 2.37 g of meta-chloroperbenzoic acid (85%) in 30 ml of dichloromethane. After the dropwise solution was finished, the reaction mixture was stirred at -10° C. to -4° C. for 15 minutes. Water was added to the reaction mixture, then was made alkaline by adding sodium carbonate, then extracted with diethyl ether. The diethyl ether layer was washed with an aqueous solution saturated with sodium chloride, then was dried with anhydrous magnesium sulfate. The solvent was removed from the extract by evaporation, and was recrystallized from dichloromethane-diethyl ether to obtain 2.30 g of 3-methyl-8-(5-methoxy-2-benzimidazolyl)sulfinyl-5,6,7,8-tetrahydroquinoline in the form of white powdery crystals. Melting point: 114°-114.5° C. (decomposed).

reactant | 3-methyl-8-(5-methoxy-2-benzimidazolyl)thio-5,6,7,8-tetrahydroquinoline | CC=1C=NC=2C(CCCC2C1)SC=1NC2=C(N1)C=CC(=C2)OC | C18H19N3OS
reactant | meta-chloroperbenzoic acid | 2.37 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-methyl-8-(5-methoxy-2-benzimidazolyl)sulfinyl-5,6,7,8-tetrahydroquinoline | 2.30 g | CC=1C=NC=2C(CCCC2C1)S(=O)C=1NC2=C(N1)C=CC(=C2)OC | C18H19N3O2S
